US07268230B2
Methanesulfonyl chloride (2.28 ml) was added dropwise to a solution of 1-(tert-butoxycarbonyl)piperazine (5 g) in methylene chloride (90 ml) containing triethylamine (4.5 ml). The solution was stirred at ambient temperature for 24 hours. The solution was poured onto cooled water and extracted with methylene chloride. The organic phase was separated, washed with brine and dried over magnesium sulphate and evaporated to give tert-butyl 4-(methylsulfonyl)piperazine-1-carboxylate (7 g).

reactant | Methanesulfonyl chloride | 2.28 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(tert-butoxycarbonyl)piperazine | 5 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(methylsulfonyl)piperazine-1-carboxylate | 7 g | CS(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O4S
